US07294650B2
iii) 7-Bromo-2,3-dihydro-4H-thiochromen-4-one
A mixture of 3[(3-bromophenyl)thio]propanoic acid (390 mg) and concentrated sulfuric acid (1.6 ml) was allowed to stand at 20° C. for 4 days. Water was added and the mixture was extracted with ethyl acetate. The organic solution was washed with sodium bicarbonate solution, brine, dried (MgSO4) and evaporated. The residue was purified by chromatography on a silica SPE cartridge (10 g) eluting with cyclohexane, dichloromethane-cyclohexane (1:2, 1:1) and dichloromethane to give the title compound (116 mg) 13C NMR δ (CDCl3) 193.5, 144.4, 131.0, 130.3, 130.0, 128.9, 128.8, 39.6, 27.1.

reactant | 3[(3-bromophenyl)thio]propanoic acid | 390 mg | BrC=1C=C(C=CC1)SCCC(=O)O | C9H9BrO2S
reactant | sulfuric acid | 1.6 ml | S(O)(O)(=O)=O | H2O4S
solvent | Water | O | H2O
product | 7-Bromo-2,3-dihydro-4H-thiochromen-4-one | 116 mg | BrC1=CC=C2C(CCSC2=C1)=O | C9H7BrOS
